US05264438
A mixture of 7-carbamoyl-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-1,2,3,4-tetrahydroquinazoline-2,4-dione (0.15 g), 1N sodium hydroxide solution (5 ml) and ethanol (5 ml) was stirred under reflux for 10 hours. After cooling, 1N hydrochloric acid (6 ml) was added and the precipitated crystals were collected to give 7-carboxy-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-1,2,3,4-tetrahydroquinazoline-2,4-dione (0.15 g).

reactant | 7-carbamoyl-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-1,2,3,4-tetrahydroquinazoline-2,4-dione | 0.15 g | C(N)(=O)C1=CC=C2C(N(C(NC2=C1)=O)CCCCN1CCC(=CC1)C1=CC=CC=C1)=O | C24H26N4O3
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 6 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 7-carboxy-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-1,2,3,4-tetrahydroquinazoline-2,4-dione | 0.15 g | C(=O)(O)C1=CC=C2C(N(C(NC2=C1)=O)CCCCN1CCC(=CC1)C1=CC=CC=C1)=O | C24H25N3O4
